US04568687
4-Fluoro-N-[3-(1H-imidazol-1-yl)propyl]benzeneacetamide
A mixture of 1.54 g. of 4-fluorophenylacetic acid, 1.62 g. of 1,1'-carbonyldiimidazole and 30 ml. of tetrahydrofuran was stirred for 2 hours, then 1.98 g. of 1H-imidazole-1-propanamine dihydrochloride was added. Stirring was continued at room temperature for an additional 18 hours, then at reflux temperature for 5 hours, 5 ml. of water was added, the mixture was heated for 30 minutes and then concentrated to remove the volatile material. The residue was diluted with methylene chloride and 25 ml. of 1N sodium hydroxide and the layers separated. The organic layer was washed with water, dried over magnesium sulfate and concentrated, giving the desired product as a viscous oil.

reactant | 4-fluorophenylacetic acid | FC1=CC=C(C=C1)CC(=O)O | C8H7FO2
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 1H-imidazole-1-propanamine dihydrochloride | Cl.Cl.N1(C=NC=C1)CCCN
solvent | water | O | H2O
product | 4-Fluoro-N-[3-(1H-imidazol-1-yl)propyl]benzeneacetamide | FC1=CC=C(C=C1)CC(=O)NCCCN1C=NC=C1 | C14H16FN3O
